US07737145B2
A solution of 1,1-dimethylethyl 2-[[[[4-(methoxycarbonyl)phenyl]methyl]amino]methyl]-1-pyrrolidinecarboxylate in dichloroethane was stirred as acetic acid (400 mg, 6.65 mmol), formaldehyde (37% solution in water), and sodium triacetoxyborohydride (1100 mg, 5.18 mmol) were added sequentially. The reaction was stirred at ambient temperature for 17 hours, treated with a saturated aqueous solution of sodium bicarbonate and extracted with EtOAc. The combined organic layers were dried and concentrated. Purification by flash chromatography afforded 1,1-dimethylethyl 2-[[[[4-(methoxycarbonyl)phenyl]methyl]methylamino]methyl]-1-pyrrolidinecarboxylate (670 mg).

reactant | 1,1-dimethylethyl 2-[[[[4-(methoxycarbonyl)phenyl]methyl]amino]methyl]-1-pyrrolidinecarboxylate | COC(=O)C1=CC=C(C=C1)CNCC1N(CCC1)C(=O)OC(C)(C)C | C19H28N2O4
reactant | acetic acid | 6.65 mmol, 400 mg | C(C)(=O)O | C2H4O2
reactant | formaldehyde | C=O | CH2O
reactant | sodium triacetoxyborohydride | 5.18 mmol, 1100 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 1,1-dimethylethyl 2-[[[[4-(methoxycarbonyl)phenyl]methyl]methylamino]methyl]-1-pyrrolidinecarboxylate | 670 mg | COC(=O)C1=CC=C(C=C1)CN(C)CC1N(CCC1)C(=O)OC(C)(C)C | C20H30N2O4
